US05082841
Preparation of 3-butyryl-8-phthalimido-4(1H)quinolone.
Ethyl 2-butyryl-3-(2-phthalimidophenylamino)acrylate (83 g, 0.2 mol) was added portionwise to boiling diphenyl ether and heated under reflux for 45 mins. The mixture was cooled, diluted with hexane and the 3-butyryl-8-phthalimido-4(1H)quinolone (50 g, 67.5%) filtered off, washed with hexane and dried, m.p. 318°-20° C.

reactant | Ethyl 2-butyryl-3-(2-phthalimidophenylamino)acrylate | 0.2 mol, 83 g | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C23H22N2O5
reactant | diphenyl ether | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 3-butyryl-8-phthalimido-4(1H)quinolone | C(CCC)(=O)C1=CNC2=C(C=CC=C2C1=O)N1C(C=2C(C1=O)=CC=CC2)=O | C21H16N2O4
